US09382188B2
B) ethyl 3-cyclopropyl-3-(3-(((6-hydroxy-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate
To a solution of ethyl 3-cyclopropyl-3-(3-(((6-methoxy-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate (2.86 g) in DMF (20 mL) was added pyridinium chloride (7.77 g), and the mixture was stirred at 100° C. for 3 hr. To the reaction mixture was added 1N hydrochloric acid (100 mL), and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was crystallized from diisopropyl ether to give the title compound (220 mg) as white crystals.

reactant | ethyl 3-cyclopropyl-3-(3-(((6-methoxy-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 2.86 g | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)OC | C26H35NO4
reactant | pyridinium chloride | 7.77 g | [Cl-].[NH+]1=CC=CC=C1
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 3-cyclopropyl-3-(3-(((6-hydroxy-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 220 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)O | C25H33NO4
